US08119627B2
To an ice cooled solution of 4-[2-(2,4-dichlorophenoxy)-N-piperidin-4-ylbenzamide (AMR01077, 100 mg, 0.274 mmol) in dry DCM (5 mL) were added triethylamine (0.2 mL, 1.37 mmol) and acetyl chloride (0.023 mL, 0.33 mmol). The reaction mixture was stirred at room temperature until completion by TLC (1.5 h), and quenched with saturated NaHCO3. The organic solution was evaporated to dryness and the oil obtained was purified by column chromatography using DCM/MeOH 95:5 as eluent. Further purification was carried out by treating a DCM solution of the obtained compound with trisamine scavenger (100 mg) for 2 h. The scavenger was filtered off, and the solvent evaporated to give N-(1-acetylpiperidin-4-yl)-2-(2,4-dichlorophenoxy)benzamide (84 mg, 75%) as an oil. Rf: 0.15 (EtOAc) LC/MS (APCI) tr=3.78 min, m/z 409.31 (67), 407.36 (M++H, 100). HPLC tr=2.69 min (96.74%) 1H NMR (270 MHz, CDCl3) δ 1.38 (2H, m, CH2), 2.00 (2H, m, CH2), 2.08 (3H, s, CH3), 2.84 (1H, m, ½CH2), 3.74 (1H, m, ½CH2), 4.18 (1H, m, CH), 4.41 (1H, m, ½CH2), 6.79 (1H, dd, J=8.2, 1.0 Hz, ArH), 6.88 (1H, d, J=8.6 Hz, ArH), 7.22 (1H, dd, J=8.9, 2.5 Hz, ArH), 7.26 (1H, m, ArH), 7.37 (1H, br s, NH), 7.41 (1H, m, ArH), 7.51 (1H, d, J=2.5 Hz, ArH) and 8.17 (1H, dd, J=7.9, 1.7 Hz, ArH).

reactant | 2-(2,4-dichlorophenoxy)-N-piperidin-4-ylbenzamide | 0.274 mmol, 100 mg | ClC1=C(OC2=C(C(=O)NC3CCNCC3)C=CC=C2)C=CC(=C1)Cl | C18H18Cl2N2O2
reactant | triethylamine | 1.37 mmol, 0.2 mL | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.33 mmol, 0.023 mL | C(C)(=O)Cl | C2H3ClO
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | N-(1-acetylpiperidin-4-yl)-2-(2,4-dichlorophenoxy)benzamide | 84 mg, 75% | C(C)(=O)N1CCC(CC1)NC(C1=C(C=CC=C1)OC1=C(C=C(C=C1)Cl)Cl)=O | C20H20Cl2N2O3
